US08003649B2
Reductive amination of 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine with 4-fluorobenzaldehyde was carried out according to General Synthetic Method 9. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column, 5μ silica, 30 mm diameter, 100 mm length eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 6-[4-[(4-fluorophenyl)methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine.

reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | N1(CCNCC1)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F | C11H12F3N5
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 6-[4-[(4-fluorophenyl)methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | FC1=CC=C(C=C1)CN1CCN(CC1)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F | C18H17F4N5
